US05726192
i) N-(3-Carboxypropanoyl)-N-methyl-glycine Benzyl Ester
A mixture of sarcosine benzyl ester (3.0 g, 30.7 mmol) and succinic anhydride (5.5 g, 30.7 mmol) in toluene (75 mL) was heated to reflux for 3 h, cooled, filtered, and the filtrate was concentrated. The residue was taken up in 5% aqueous sodium carbonate and extracted with ethyl acetate. The aqueous phase was adjusted to pH 3 with concentrated hydrochloric using Congo Red paper and extracted with ethyl acetate. The organic phase was washed with water, dried (magnesium sulfate) and concentrated to yield the title compound (7.4 g, 67.5%): TLC Rf 0.48 (silica, 9:1:1 dichloromethane:methanol:formic acid).

reactant | sarcosine benzyl ester | 30.7 mmol, 3.0 g | C(C1=CC=CC=C1)OC(CNC)=O | C10H13NO2
reactant | succinic anhydride | 30.7 mmol, 5.5 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-Carboxypropanoyl)-N-methyl-glycine Benzyl Ester | 7.4 g, 67.5% | C(C1=CC=CC=C1)OC(CN(C)C(CCC(=O)O)=O)=O | C14H17NO5
